US08455495B2
A mixture of 4,5-dibromopyridazinone (25 g, 98 mmol), anhydrous potassium carbonate (34 g, 246 mmol), 4-methoxybenzylchloride (14 mL, 103 mmol) and tetrabutylammonium bromide (1.6 g, 4.9 mmol) in CH3CN (200 mL) was stirred at 45° C. for 3 h and then at 80° C. for 2 h. The mixture was allowed to cool to 22° C. and filtered through a pad of Celite. The pad was washed with CH2Cl2, followed by EtOAc, and the combined filtrate was evaporated to dryness. The crude product was suspended in MeOH and sonicated. The solid was collected by suction filtration, washed with MeOH, and air-dried to give 2-(4-methoxybenzyl)-4,5-dibromopyridazin-3(2H)-one as a brown solid. The filtrate was concentrated and purified by silica gel chromatography, eluting with 20% hexane in CH2Cl2, to give 2-(4-methoxybenzyl)-4,5-dibromopyridazin-3(2H)-one as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 3.78 (s, 3H), 5.25 (s, 2H), 6.85 (d, J=8.53 Hz, 2H), 7.40 (d, J=9.03 Hz, 2H), 7.78 (s, 1H).

reactant | 4,5-dibromopyridazinone | 98 mmol, 25 g | BrC=1C(NN=CC1Br)=O | C4H2Br2N2O
reactant | potassium carbonate | 246 mmol, 34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzylchloride | 103 mmol, 14 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
catalyst | tetrabutylammonium bromide | 4.9 mmol, 1.6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | 2-(4-methoxybenzyl)-4,5-dibromopyridazin-3(2H)-one | COC1=CC=C(CN2N=CC(=C(C2=O)Br)Br)C=C1 | C12H10Br2N2O2
